US07622480B2
A. Preparation of 3-piperidinyl-1-thiophen-3-ylmethyl-1H-pyrrolo[2,3-b]pyridine
This compound was prepared following the procedure described in example 7, parts E and F, starting with 0.3 g (1 mmol) of 4-(1H-pyrrolo[2,3-b]pyridin-3-yl)-piperidine-1-carboxylic acid tert-butyl ester and 2.12 ml of a freshly prepared 0.61 M solution of 3-bromomethylthiophene in ethyl ether. After standard work-up, 0.39 g (100% of yield) of the expected product were isolated.

reactant | 4-(1H-pyrrolo[2,3-b]pyridin-3-yl)-piperidine-1-carboxylic acid tert-butyl ester | 1 mmol, 0.3 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CNC2=NC=CC=C21 | C17H23N3O2
reactant | 3-bromomethylthiophene | BrCC1=CSC=C1 | C5H5BrS
solvent | ethyl ether | C(C)OCC | C4H10O
product | 3-piperidinyl-1-thiophen-3-ylmethyl-1H-pyrrolo[2,3-b]pyridine | N1(CCCCC1)C1=CN(C2=NC=CC=C21)CC2=CSC=C2 | C17H19N3S
